US07786108B2
Step 2. Preparation of (S)-9-[[2-(2-Amino-ethyl)-2H-tetrazol-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester
Add hydrazine monohydrate (1.94 mmol) to a solution of (S)-9-((3,5-Bis-trifluoromethyl-benzyl)-{2-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-2H-tetrazol-5-yl}-amino)-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester (0.13 mmol) in methanol (5 mL). After heating the mixture at 60° C. for 4 h cool to room temperature and stir for 14 h. Remove solvent under vacuum. Chromatograph over silica gel eluting with methanol/dichloromethane (0-5%) to provide the title compound as a colorless foam. MS (ES+): 642 (M+H).

reactant | hydrazine monohydrate | 1.94 mmol | O.NN
reactant | (S)-9-((3,5-Bis-trifluoromethyl-benzyl)-{2-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-2H-tetrazol-5-yl}-amino)-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | 0.13 mmol | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3COCC3C=C21)N(C=2N=NN(N2)CCN2C(C1=CC=CC=C1C2=O)=O)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C37H35F6N7O5
reactant | methanol dichloromethane | CO.ClCCl
solvent | methanol | 5 mL | CO | CH4O
product | (S)-9-[[2-(2-Amino-ethyl)-2H-tetrazol-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3COCC3C=C21)N(CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=2N=NN(N2)CCN | C29H33F6N7O3
